US08754100B2
Synthesis of methyl 3-oxiranyl-2-(2-trifluoromethylphenyl)propionate
Methyl (2-trifluoromethylphenyl)acetate (5.0 g) was dissolved in tetrahydrofuran (10 mL), and the solution was added at −78° C. to a solution containing potassium bistrimethylsilylamide (50 mL) in tetrahydrofuran (190 mL). After stirring for 30 minutes, epibromohydrin (1.96 mL) was added at the same temperature. After further 10 minutes, a boron trifluoride-diethyl ether complex (3.16 mL) was added. After stirring at −78° C. for one hour, the reaction was terminated with a saturated sodium bicarbonate aqueous solution. The organic layer diluted with ethyl acetate was washed with a saturated sodium bicarbonate aqueous solution and brine and dried over magnesium sulfate. Concentration under reduced pressure gave a residue which was dissolved in methanol (50 mL) and methylene chloride (50 mL) and treated with potassium carbonate (15.8 g). After one hour, potassium carbonate was precipitated by adding methylene chloride (200 mL) and removed by filtration through celite. The resulting solution was washed with saturated ammonium chloride aqueous solution and brine and dried over magnesium sulfate. Concentration under reduced pressure gave a crude product. The crude product was purified by silica gel column chromatography (mobile phase:ethyl acetate/heptane=0 to 30%) to obtain a diastereomer mixture (2.61 g).

reactant | Methyl (2-trifluoromethylphenyl)acetate | 5.0 g | FC(C1=C(C=CC=C1)CC(=O)OC)(F)F | C10H9F3O2
reactant | potassium bistrimethylsilylamide | 50 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | epibromohydrin | 1.96 mL | C(Br)C1CO1 | C3H5BrO
reactant | potassium carbonate | 15.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 190 mL | O1CCCC1 | C4H8O
solvent | methanol | 50 mL | CO | CH4O
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | methyl 3-oxiranyl-2-(2-trifluoromethylphenyl)propionate | 2.61 g | O1C(C1)CC(C(=O)OC)C1=C(C=CC=C1)C(F)(F)F | C13H13F3O3
